US09102692B2
A mixture of 2-[5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(benzenesulfonyl)-5-iodo-1H-indole (117 mg), copper (I) cyanide (84 mg), and 1-methyl-2-pyrrolidinone was reacted in a microwave reactor (190° C., 20 minutes). The reaction mixture was poured into a mixed solution of 2 M ammonia water (40 ml), ethyl acetate (60 ml), and methanol (7 ml), and sonicated for five minutes. After ethyl acetate extraction, the extract was washed with water and then dried over anhydrous sodium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (methanol/dichloromethane=0/100 to 20/100) to give 2-[5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(benzenesulfonyl)-1H-indole-5-carbonitrile (87 mg, 89%).

reactant | 2-[5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(benzenesulfonyl)-5-iodo-1H-indole | 117 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=C(C=C2C1)I)S(=O)(=O)C1=CC=CC=C1 | C26H19IN6O3S
reactant | copper (I) cyanide | 84 mg | [Cu]C#N
reactant | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
reactant | ammonia water | 2 M, 40 ml | O.N
solvent | methanol | 7 ml | CO | CH4O
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
product | 2-[5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazole-4-carbonyl]-1-(benzenesulfonyl)-1H-indole-5-carbonitrile | 87 mg, 89% | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=C(C=C2C1)C#N)S(=O)(=O)C1=CC=CC=C1 | C27H19N7O3S
